US07855227B2
Step B 2-[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-N,N-dimethyl-2-phenyl-acetamide
This compound was synthesized according to the procedure described in Scheme 6, step B, using 115 mg of 2-[2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-2-phenyl-acetic acid methyl ester (0.27 mmol), 1.06 ml (2.1 mmol) of a 2 M solution of dimethylamine in tetrahydrofuran and 0.53 ml (1.06 mmol) of a 2 M solution of trimethyl aluminium in heptane. 66 mg (52% yield) of the title compound were isolated as a white solid.

reactant | 2-[2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-2-phenyl-acetic acid methyl ester | 0.27 mmol, 115 mg | COC(C(C1=CC=CC=C1)NCCC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | C25H26FNO4
reactant | dimethylamine | CNC | C2H7N
reactant | trimethyl aluminium | C[Al](C)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | 2-[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-N,N-dimethyl-2-phenyl-acetamide | 66 mg, 52% yield | FC=1C=C(COC2=C(C=C(C=C2)CCNC(C(=O)N(C)C)C2=CC=CC=C2)OC)C=CC1 | C26H29FN2O3
